US07666871B2
Add HgClO4.4H2O (1.49 g, 4.00 mmol) to a solution of 2-(4-bromo-phenyl)-4-(2-[1,3]dithian-2-yl-ethyl)-5-methyl-oxazole (0.672 g, 1.75 mmol) in 1:1 THF:CH2Cl2 (16 mL) and water (1.6 mL). After 6 hours, filter and wash the solids with dichloromethane. Concentrate to give 3-[2-(4-bromo-phenyl)-5-methyl-oxazol-4-yl]-propionaldehyde (0.445 g, 86%). MS (m/e): 294 (M+1).

reactant | 2-(4-bromo-phenyl)-4-(2-[1,3]dithian-2-yl-ethyl)-5-methyl-oxazole | 1.75 mmol, 0.672 g | BrC1=CC=C(C=C1)C=1OC(=C(N1)CCC1SCCCS1)C | C16H18BrNOS2
reactant | THF | C1CCOC1 | C4H8O
reactant | CH2Cl2 | 16 mL | C(Cl)Cl | CH2Cl2
solvent | water | 1.6 mL | O | H2O
product | 3-[2-(4-bromo-phenyl)-5-methyl-oxazol-4-yl]-propionaldehyde | 0.445 g, 86% | BrC1=CC=C(C=C1)C=1OC(=C(N1)CCC=O)C | C13H12BrNO2
